US06635640B2
4-[4-(2-Oxo-4-pyridin-4-yl-1,2-dihydroindol-3-ylidenemethyl)-phenyl]-piperazine-1-carbaldehyde
4-Pyridin-4-yl-1,3-dihydroindol-2-one was condensed with 4-(4-formylphenyl)-piperazine-1-carbaldehyde to give the title compound.

reactant | 4-Pyridin-4-yl-1,3-dihydroindol-2-one | N1=CC=C(C=C1)C1=C2CC(NC2=CC=C1)=O | C13H10N2O
reactant | 4-(4-formylphenyl)-piperazine-1-carbaldehyde | C(=O)C1=CC=C(C=C1)N1CCN(CC1)C=O | C12H14N2O2
product | 4-[4-(2-Oxo-4-pyridin-4-yl-1,2-dihydroindol-3-ylidenemethyl)-phenyl]-piperazine-1-carbaldehyde | O=C1NC2=CC=CC(=C2C1=CC1=CC=C(C=C1)N1CCN(CC1)C=O)C1=CC=NC=C1 | C25H22N4O2
